### ISSUE TITLE
tech-debt: conv-mode `erw` (kind Lean.Parser.Tactic.Conv.convErw__) is not detected

### ISSUE THREAD

**Issue by Whysoserioushah** [mathlib-initiative/aftk#7]
## Summary

The `erw` marker only matches the *tactic*-mode `erw`. The `erw` available inside `conv` blocks
(`conv_lhs => erw […]`, `conv in … => erw […]`, and everything built on conv such as Mathlib's
`slice_lhs n m => erw […]`) is a different syntax kind and is never reported.

## Reproduction

```lean
theorem convErw (a b : Nat) (h : a = b) : a + 0 = b := by
  conv_lhs => erw [Nat.add_zero]   -- not a finding
  exact h

theorem tacticErw (a b : Nat) (h : a = b) : a = b := by
  erw [h]                          -- finding
```

```bash
$ lake exe aftk tech-debt --markers erw module Foo
Foo.lean:6:3	erw	Core Lean `erw` tactic invocation      # only the second one
```

On a 155-module library, 5 of 170 `erw` sites were of the conv form — all in `conv_rhs =>` and
`slice_lhs … =>` blocks — and were the entire discrepancy between aftk's count and a textual one.

## Where

`AFTK/TechDebt.lean`:

```lean
/-- True for the source syntax node generated by Core Lean's `erw` parser. -/
def isCoreErwSyntax (stx : Syntax) : Bool :=
  stx.isOfKind `Lean.Parser.Tactic.tacticErw___ &&                 -- :516
    match (stx.getArgs[0]? : Option Syntax) with
    | some (Syntax.atom _ "erw") => true
    | _ => false
```

The conv form is declared in `Init/Conv.lean:294` inside `namespace Lean.Parser.Tactic.Conv`:

```lean
macro "erw" c:optConfig s:rwRuleSeq : conv => `(conv| rw $[$(getConfigItems c)]* (transparency := .default) $s:rwRuleSeq)
```

and its kind is `` `Lean.Parser.Tactic.Conv.convErw__ `` (verified with
`` `(conv| erw [Nat.zero_add]) ``, `.raw.getKind`). Both kinds are visited by `tacticMarkers`
(conv tactics produce `TacticInfo` nodes too), so the surface node is available — only the kind
check is too narrow.

Matching the *expansion* instead would not work: the expanded `rw (transparency := .default)`
node carries synthetic source info, and `findingOfSyntax?` uses `getRange? (canonicalOnly := true)`
(`:580`), so it is dropped — which is the right behaviour for `erw` hidden behind user macros
(covered by `tests/tech_debt.sh`'s `erewrite`), and exactly why the surface kind has to be matched.

## Proposed fix

```lean
/-- Kinds of the core `erw` surface syntax: the tactic and the `conv` form. -/
def coreErwKinds : Array SyntaxNodeKind :=
  #[``Lean.Parser.Tactic.tacticErw___, ``Lean.Parser.Tactic.Conv.convErw__]

/-- True for the source syntax node generated by Core Lean's `erw` parsers (tactic or conv). -/
def isCoreErwSyntax (stx : Syntax) : Bool :=
  coreErwKinds.any stx.isOfKind &&
    match (stx.getArgs[0]? : Option Syntax) with
    | some (Syntax.atom _ "erw") => true
    | _ => false
```

Using the double-backtick name literals makes the build fail loudly if core renames either kind,
instead of the marker silently going blind.

The `Kind.erw` description ("Core Lean `erw` tactic invocation") stays accurate; if you would
rather keep the two distinguishable in output, a `convErw` kind is a two-line addition, but one
kind seems right — the debt (default-transparency rewriting) is the same.

## Test

Add to the `TechDebtTest/Markers.lean` fixture in `tests/tech_debt.sh`:

```lean
theorem convErwMarker (a b : Nat) (h : a = b) : a + 0 = b := by
  conv_lhs => erw [Nat.add_zero]
  exact h
```

and the corresponding `(line, "erw")` entry in the expected lists. A second case with the `erw`
on a separate line inside a multi-line `conv =>` block guards the range computation.

## Related

The explicit spelling `rw (transparency := .default) […]` is semantically identical to `erw` and
is not a finding either. Probably acceptable (it is rare and deliberate), but worth a note in the
marker's description, or a separate opt-in marker.

---
*Found while reconciling aftk with a textual tracker on mathlib-initiative/CFT_clean; see #5.*
